US07309703B2
B. 1-[3-(4-Chloro-phenyl)-1-(3-chloro-propyl)-1,4,6,7-tetrahydro-pyrazolo[4,3-c]pyridin-5-yl]-ethanone
Cs2CO3 (2.66 g, 8.2 mmol) was added to a solution of 1-[3-(4-chloro-phenyl)-1,4,6,7-tetrahydro-pyrazolo[4,3-c]pyridin-5-yl]-ethanone (1.0 g, 5.4 mmol) in DMF (10 mL) and stirred for 15 min. 1-Bromo-3-chloropropane (1.28 g, 8.2 mmol) was added and stirred under N2 at room temperature for 36 h. Water (50 mL) was added to the reaction and stirred for 5 min. The product precipitated out. The aqueous portion was decanted and water was added to the residue and decanted again. The semisolid was taken up in CH2Cl2 and passed through a short plug of SiO2 (5% MeOH/EtOAc) to obtain 1.06 g (83%) of a pale yellow semisolid. MS (electrospray): exact mass calculated for C17H19Cl2N3O, 351.09; m/z found, 352.0 [M+H]+. 1H NMR (500 MHz, CDCl3, a mixture of 1:1 rotamers): 7.60 (d, J=8.3 Hz, 1H), 7.53 (d, J=8.3 Hz, 1H), 7.40 (d, J=8.3 Hz, 1H), 7.36 (d, J=8.3 Hz, 1H), 4.77 (s, 1H), 4.61 (s, 1H), 4.20 (t, J=6.2 Hz, 2H), 3.94 (t, J=5.8 Hz, 1H), 3.76 (t, J=5.8 Hz, 1H), 3.52 (q, J=6.1 Hz, 2H), 2.84 (t, J=5.5 Hz, 1H), 2.77 (t, J=5.6 Hz, 1H), 2.37 (sextet, J=6.1 Hz, 2 H), 2.21 (s, 1.5 H), 2.16 (s, 1.5 H).

reactant | Cs2CO3 | 8.2 mmol, 2.66 g | C(=O)([O-])[O-].[Cs+].[Cs+]
reactant | 1-[3-(4-chloro-phenyl)-1,4,6,7-tetrahydro-pyrazolo[4,3-c]pyridin-5-yl]-ethanone | 5.4 mmol, 1.0 g | ClC1=CC=C(C=C1)C1=NNC2=C1CN(CC2)C(C)=O | C14H14ClN3O
reactant | 1-Bromo-3-chloropropane | 8.2 mmol, 1.28 g | BrCCCCl | C3H6BrCl
reactant | Water | 50 mL | O | H2O
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
product | 1-[3-(4-Chloro-phenyl)-1-(3-chloro-propyl)-1,4,6,7-tetrahydro-pyrazolo[4,3-c]pyridin-5-yl]-ethanone | 1.06 g, 83% | ClC1=CC=C(C=C1)C1=NN(C2=C1CN(CC2)C(C)=O)CCCCl | C17H19Cl2N3O
